US06881844B2
A mixture of 1-(6-chloro-1-propyl-1H-indol-3-yl)-2,2,2-trifluoro-ethanone (277.1 mg, 0.81 mmol) in a 20% aqueous sodium hydroxide solution (2.7 mL) was heated under reflux for 17 h. At this time, the reaction was cooled to 25° C., partitioned between water (75 mL) and ethyl acetate (75 mL), and extracted with diethyl ether (1×50 mL). The aqueous layer was acidified to pH=1 with concentrated hydrochloric acid and then extracted with ethyl acetate (1×75 mL). The combined organic layers were washed with water (1×50 mL) and a saturated aqueous sodium chloride solution (1×50 mL), dried over sodium sulfate, filtered, and concentrated in vacuo to afford 6-chloro-1-propyl-1H-indole-3-carboxylic acid (141.4 mg, 74%) as a cream-colored solid: mp 179-180° C.; EI-HRMS m/e calcd for C12H12ClNO2 (M+) 237.0556, found 237.0558.

reactant | 1-(6-chloro-1-propyl-1H-indol-3-yl)-2,2,2-trifluoro-ethanone | 0.81 mmol, 277.1 mg | ClC1=CC=C2C(=CN(C2=C1)CCC)C(C(F)(F)F)=O | C13H11ClF3NO
reactant | sodium hydroxide | 2.7 mL | [OH-].[Na+]
product | 6-chloro-1-propyl-1H-indole-3-carboxylic acid | 141.4 mg, 74% | ClC1=CC=C2C(=CN(C2=C1)CCC)C(=O)O | C12H12ClNO2
